US07323460B2
Step 5: Tert-butyl 4-fluoro-2-[(methylamino)carbonyl]benzylcarbamate
Through a solution of tert-butyl 4-fluoro-2-iodobenzylcarbamate (1.00 g, 2.85 mmol) in dry DMF (20 mL), in an oven dried glass insert in a high pressure bomb reactor flushed with nitrogen, was bubbled methylamine gas at 0° C. until the solution was saturated and excess methylamine was condensed into the reaction (approximately 30 equivalents of methylamine). Diisopropylethylamine (0.99 mL, 5.70 mmol), palladium acetate (64 mg, 0.29 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (158 mg, -0.29 mmol) were added to the saturated solution. The glass insert was then placed in the pressure vessel and the vessel was purged once with carbon monoxide gas. The vessel was recharged with carbon monoxide gas to pressure of 300 psi, placed into an oil bath, and heated to 90° C. for four hours. The vessel was cooled, the gas was released slowly and the resulting mixture was partitioned between water and ethyl acetate. The layers were separated and the organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo to a brown liquid. The residue was purified by flash column chromatography (ISCO column, 110 g silica gel) eluting with a 10-50% acetone/hexane gradient over 35 minutes to afford the desired product as a brown crystalline solid.

reactant | tert-butyl 4-fluoro-2-iodobenzylcarbamate | 2.85 mmol, 1.00 g | FC1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)I | C12H15FINO2
reactant | methylamine | approximately 30 equivalents | CN | CH5N
reactant | Diisopropylethylamine | 5.70 mmol, 0.99 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.29 mmol, 64 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | -0.29 mmol, 158 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Tert-butyl 4-fluoro-2-[(methylamino)carbonyl]benzylcarbamate | FC1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)C(=O)NC | C14H19FN2O3
